US04898871
The procedure is as in Example 44, but starting with [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid (4.5 g) in anhydrous dimethylformamide (100 cc), N,N'-carbonyldiimidazole (2 g) and butylamine (0.73 g). After recrystallization in acetonitrile, [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-butylacetamide (2.35 g), m.p. 170° C., is obtained.

reactant | [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid | 4.5 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)O | C19H15N3O5
reactant | butylamine | 0.73 g | C(CCC)N | C4H11N
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-butylacetamide | 2.35 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)NCCCC | C23H24N4O4
